US05250504
A solution of 125 g (0.543 mole) of 2,6-dichloro-4-trifluoromethylaniline in 662 mL of glacial acetic acid was placed in a flask equipped with a stirrer. This solution was warmed to 55° C., and to it was added a suspension of 43.3 g (0.628 mole) of sodium nitrite in 318 mL of concentrated sulfuric acid. The temperature was maintained at 62°-64° C. during the first half of this addition and then the temperature was maintained at 55°-62° C. during the second half of the addition. The total addition required about 100 minutes. Upon completion of addition, the reaction mixture was allowed to cool to 40° C. and then was cooled rapidly with a bath of dry ice/isopropanol to 0° C. At this temperature a solution of 473 g (2.10 moles) of tin(II) chloride dihydrate in 323 mL of concentrated hydrochloric acid was added dropwise while the temperature was kept between -5° C. and 5° C. This addition required about 50 minutes. After the white slurry was warmed to room temperature, it was filtered, yielding a moist, white solid which was immediately placed in 1.1 L of 30% ammonium hydroxide. This mixture was stirred at room temperature for one hour and then was warmed to 40° C. with stirring. The mixture was cooled to 28° C. before being filtered. The filter cake was triturated seven times with 400 mL of diethyl ether, decanting the ether extract each time. The combined ether extracts were then washed once with water, dried over anhydrous magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure, yielding 103.4 g of 2,6-dichloro-4-trifluoromethylphenylhydrazine as a crystalline product. The nmr spectrum was consistent with the proposed structure.

reactant | 2,6-dichloro-4-trifluoromethylaniline | 0.543 mole, 125 g | ClC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4Cl2F3N
reactant | sodium nitrite | 0.628 mole, 43.3 g | N(=O)[O-].[Na+]
reactant | dry ice isopropanol | C(=O)=O.C(C)(C)O
reactant | tin(II) chloride dihydrate | 2.10 moles, 473 g | O.O.[Sn](Cl)Cl
solvent | acetic acid | 662 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 318 mL | S(O)(O)(=O)=O | H2O4S
solvent | hydrochloric acid | 323 mL | Cl | ClH
solvent | ammonium hydroxide | 1.1 L | [OH-].[NH4+]
product | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 103.4 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
